US06531502B1
To 300 mg of ethyl (E)-3-[(2-oxo-1,2-dihydroindol-3-ylidenemethyl)phenyl]-propionate in 3 mL of ethanol was added 2 mL of 2N sodium hydroxide. The mixture was stirred at 90° C. for 2 hrs, cooled and acidified with 6 N hydrochloric acid to pH 3. The solid was collected by filtration and washed with cold ethanol to give 30 mg of 3-[2-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-phenyl]-propionic acid as a yellow solid.

reactant | ethyl (E)-3-[(2-oxo-1,2-dihydroindol-3-ylidenemethyl)phenyl]-propionate | 300 mg | O=C\1NC2=CC=CC=C2/C1=C\C1=C(C=CC=C1)CCC(=O)OCC | C20H19NO3
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-[2-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-phenyl]-propionic acid | 30 mg | O=C1NC2=CC=CC=C2C1=CC1=C(C=CC=C1)CCC(=O)O | C18H15NO3
